US08076486B2
(2-Fluoro-4-iodo-phenyl)-[4-(5-methylamino-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-amine
To a solution of 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid N′-acetyl-hydrazide (400 mg; 0.93 mmol; 1 eq) in DMA (5 mL), PS-Triphenyl-phosphine (1.22 g; 4.66 mmol; 5 eq), Trichloro-acetonitrile (269 mg; 1.86 mmol; 2 eq) and DIEPA (0.49 mL; 2.8 mmol; 3 eq) were added. The reaction mixture was stirred at 100° C. for 4 hrs. The mixture was filtered and the solution was subjected to preparative HPLC to afford the product (98 mg). LC/MS (Method A) [5.03 min; 412(M+1)]

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid N′-acetyl-hydrazide | 0.93 mmol, 400 mg, 1 eq | C(C)(=O)NNC(C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O | C14H12FIN4O2
reactant | Triphenyl-phosphine | 4.66 mmol, 1.22 g, 5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Trichloro-acetonitrile | 1.86 mmol, 269 mg, 2 eq | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | (2-Fluoro-4-iodo-phenyl)-[4-(5-methylamino-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-amine | 98 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1OC(=NN1)NC | C14H11FIN5O
